US07687503B2
9.1. 2-(methylamino)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate
The procedure described in Example 1 (step 1.4.) is used. Starting with 2.35 g (6.32 mmol) of 2-(ethyloxy)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate, obtained in step 7.4. of Example 7, and 15.80 ml (31.61 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after chromatography on silica gel, eluting with a 98/2 and then 97/3 mixture of dichloromethane and methanol, 1.779 g of product are obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate | 6.32 mmol, 2.35 g | BrC1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)OCC | C14H18BrN3O4
reactant | methylamine | 2M | CN | CH5N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(methylamino)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate | BrC1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)NC | C13H17BrN4O3
